US06660735B2
A solution of the compound of Example 46, 1-[2-(2-aminoethoxy)ethyl]-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine (800 mg, 2.67 mmol) in 30 mL of pyridine was chilled in an ice water bath. With vigorous stirring, the solution was treated with cyclohexyl isocyanate (0.340 mL, 2.67 mmol). After 1 h, the reaction was concentrated to yield an off white solid. Purification by column chromatography (SiO2, 95:5:0.5 CHCl3:MeOH:NH4OH) gave 748 mg of N-{2-[2-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}-N′-cyclohexylurea as a white solid.

reactant | 1-[2-(2-aminoethoxy)ethyl]-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 2.67 mmol, 800 mg | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C16H21N5O
reactant | cyclohexyl isocyanate | 2.67 mmol, 0.340 mL | C1(CCCCC1)N=C=O | C7H11NO
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | N-{2-[2-(4-amino-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethoxy]ethyl}-N′-cyclohexylurea | 748 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNC(=O)NC2CCCCC2)CC | C23H32N6O2
